US07544697B2
2-Aminophenylboronic acid hydrochloride (16.2 g, 93.5 mmol), potassium carbonate (42.5 g, 308 mmol), DME (333 mL), water (166 mL), and 4-bromo-5-(4-chlorobutyl)-1-(2-methoxyethyl)-1H-pyrazole-3-carbonitrile (30 g, 93.5 mmol) were combined in a flask, which was then evacuated three times and filled with nitrogen. Dichlorobis(triphenylphosphine)palladium(II) (0.65 g, 0.94 mmol) was then added, and the reaction was heated at 110° C. for one hour. An analysis by HPLC indicated the presence of starting material, and additional 2-aminophenylboronic acid hydrochloride (16.2 g, 93.5 mmol) and dichlorobis(triphenylphosphine)palladium(II) (0.65 g, 0.94 mmol) were added. The reaction was then heated at reflux overnight and allowed to cool to ambient temperature. Water (30 mL) was added, and the mixture was extracted with ethyl acetate. The combined extracts were dried over sodium sulfate, filtered through a layer of CELITE filter agent, and concentrated under reduced pressure. The crude product was purified by column chromatography on silica gel (eluting sequentially with 25% ethyl acetate in hexanes and 75% ethyl acetate in hexanes) to provide 18 g of 4-(2-aminophenyl)-5-(4-chlorobutyl)-1-(2-methoxyethyl)-1H-pyrazole-3-carbonitrile as a maroon oil.

reactant | 2-Aminophenylboronic acid hydrochloride | 93.5 mmol, 16.2 g | Cl.NC1=C(C=CC=C1)B(O)O
reactant | potassium carbonate | 308 mmol, 42.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | DME | 333 mL | COCCOC | C4H10O2
reactant | 4-bromo-5-(4-chlorobutyl)-1-(2-methoxyethyl)-1H-pyrazole-3-carbonitrile | 93.5 mmol, 30 g | BrC=1C(=NN(C1CCCCCl)CCOC)C#N | C11H15BrClN3O
reactant | 2-aminophenylboronic acid hydrochloride | 93.5 mmol, 16.2 g | Cl.NC1=C(C=CC=C1)B(O)O
catalyst | Dichlorobis(triphenylphosphine)palladium(II) | 0.94 mmol, 0.65 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | dichlorobis(triphenylphosphine)palladium(II) | 0.94 mmol, 0.65 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | Water | 30 mL | O | H2O
solvent | water | 166 mL | O | H2O
product | 4-(2-aminophenyl)-5-(4-chlorobutyl)-1-(2-methoxyethyl)-1H-pyrazole-3-carbonitrile | 18 g | NC1=C(C=CC=C1)C=1C(=NN(C1CCCCCl)CCOC)C#N | C17H21ClN4O
